US07592373B2
4.33.c. [2-(2-chloro-4-nitrophenyl)ethyl]cyclopropylmethylamine
1.07 g (10 mmol) of N-methylcyclopropylamine is added to a solution of 1 g (5.01 mmol) of (2-chloro-4-nitrophenyl)acetaldehyde in 50 mL of THF and then 4.46 g (20 mmol) of sodium triacetoxyborohydride (95%) is added. The reaction mixture is stirred for 120 hours at ambient temperature and then poured into a saturated sodium hydrogen carbonate solution and twice extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate. The purification is carried out by column chromatography on Alox, neutral, act. II-III (eluant: petroleum ether/ethyl acetate (5:1)). Yield: 0.75 g (58.8% of theory); C12H15ClN2O2 (M=254.71); calc.: molecular ion peak (M+H)+: 255/257; found: molecular ion peak (M+H)+: 255/257; Rf value: 0.61 (Alox, petroleum ether/ethyl acetate (5:1)).

reactant | N-methylcyclopropylamine | 10 mmol, 1.07 g | CNC1CC1 | C4H9N
reactant | (2-chloro-4-nitrophenyl)acetaldehyde | 5.01 mmol, 1 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC=O | C8H6ClNO3
reactant | sodium triacetoxyborohydride | 20 mmol, 4.46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [2-(2-chloro-4-nitrophenyl)ethyl]cyclopropylmethylamine | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCNCC1CC1 | C12H15ClN2O2
